US06780996B2
Following the procedure of Example 15, 4-({3-chloro-4-[(1-methyl-1H-imidazol-2-yl)sulfanyl]phenyl}amino)-7-fluoro-6-(2-methoxyethoxy)-3-quinolinecarbonitrile (300 mg, 0.62 mmol) and 1-ethyl-4-(3-hydroxypropyl)piperazine (540 mg, 3.1 mmol) provides 155 mg of 4-({3-chloro-4-[(1-methyl-1H-imidazol-2-yl)sulfanyl]phenyl}amino)-7-[3-(4-ethyl-1-piperazinyl)propoxy]-6-(2-methoxyethoxy)-3-quinolinecarbonitrile, mp 188-190° C.

reactant | 4-({3-chloro-4-[(1-methyl-1H-imidazol-2-yl)sulfanyl]phenyl}amino)-7-fluoro-6-(2-methoxyethoxy)-3-quinolinecarbonitrile | 0.62 mmol, 300 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OCCOC)F)C#N | C23H19ClFN5O2S
reactant | 1-ethyl-4-(3-hydroxypropyl)piperazine | 3.1 mmol, 540 mg | C(C)N1CCN(CC1)CCCO | C9H20N2O
product | 4-({3-chloro-4-[(1-methyl-1H-imidazol-2-yl)sulfanyl]phenyl}amino)-7-[3-(4-ethyl-1-piperazinyl)propoxy]-6-(2-methoxyethoxy)-3-quinolinecarbonitrile | 155 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OCCOC)OCCCN1CCN(CC1)CC)C#N | C32H38ClN7O3S
